US07094773B2
2) Inhibition of the Biosynthesis of LTB4 In Vitro
The LTA4 substrate was freshly prepared by alkaline hydrolysis of LTA4 methyl ester (Cayman Chemical Co., USA). After incubating for 10 minutes in the presence of LTA4 (1 μM in 50 mM Tris-HCl, 0.15 M NaCl, 0.5% BSA, pH 7.4), the reaction is stopped by diluting 1/20 in 0.1 M potassium phosphate buffer containing 1.5 mM NaN2, 0.4 M NaCl, 1 mM EDTA, 0.1% BSA, pH 7.4, −4° C.

reactant | LTA4 | CCCCC/C=C\C/C=C\C=C\C=C\[C@H]1[C@@H](O1)CCCC(=O)O | C20H30O3
reactant | LTA4 methyl ester | CCCCC/C=C\C/C=C\C=C\C=C\[C@H]1[C@@H](O1)CCCC(=O)OC | C21H32O3
reactant | LTA4 | 1 μM, pH 7.4 | CCCCC/C=C\C/C=C\C=C\C=C\[C@H]1[C@@H](O1)CCCC(=O)O | C20H30O3
reactant | NaCl | 0.4 M | [Na+].[Cl-]
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | potassium phosphate | 0.1 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | LTB4 | CCCCC/C=C\C[C@H](/C=C/C=C/C=C\[C@H](CCCC(=O)O)O)O | C20H32O4
